US06156700
Preparation of 3-[3-(1-Methoxyethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)pyrimidinedione
To a mixture of 3-[3-(1-bromoethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (0.720 g, 0.00166 mol), methanol and 1,2-dichloroethane is added silver trifluoromethane sulfonate (0.510 g, 0.00199 mol). The resultant mixture is stirred 23 hours at room temperature and filtered through diatomaceous earth with ethyl acetate. Saturated sodium bicarbonate is added to the filtrate and the resultant mixture is stirred vigorously for one hour. The organic layer is saved while the aqueous layer is extracted with ethyl acetate. The combined organic layers are dried over magnesium sulfate, filtered and concentrated in vacuo to a syrup, which is chromatographed on silica gel with hexanes:ethyl acetate to give the title compound as a white solid (0.660 g, 100%, mp 133-135° C.) which is identified by NMR spectral analysis.

reactant | 3-[3-(1-bromoethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.00166 mol, 0.720 g | BrC(C)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C15H11BrF3N3O2S
reactant | methanol | CO | CH4O
catalyst | silver trifluoromethane sulfonate | 0.00199 mol, 0.510 g | FC(S(=O)(=O)[O-])(F)F.[Ag+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 3-[3-(1-Methoxyethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)pyrimidinedione | 0.660 g, 100% | COC(C)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C16H14F3N3O3S
